US07776857B2
In a 48 mL sealed pressure vessel, was added 4-(4-chlorophenyl)-N-(4-(6-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine (0.280 g, 0.553 mmol), HBr (6.01 mL, 11.1 mmol), and acetic acid (6.34 mL, 11.1 mmol). The mixture was stirred at 85° C. for 1 hour. The reaction was monitored and found complete by LC/MS. The reaction mixture was cooled to RT, carefully basified with 6 N NaOH. Light yellow solids crashed out, which were filtered, rinsed with water and dried in vacuum oven to yield 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenoxy)-1,5-naphthyridin-2(1H)-one. The product was used without further purification. MS:[M+H]=492.1; Calc'd 491.9 for C28H18ClN5O2

reactant | 4-(4-chlorophenyl)-N-(4-(6-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | 0.553 mmol, 0.280 g | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC=C(N=C12)OC | C29H20ClN5O2
reactant | HBr | 11.1 mmol, 6.01 mL | Br | BrH
reactant | acetic acid | 11.1 mmol, 6.34 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 6 N | [OH-].[Na+]
product | 8-(4-(4-(4-chlorophenyl)phthalazin-1-ylamino)phenoxy)-1,5-naphthyridin-2(1H)-one | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC=2C=CN=C3C=CC(NC23)=O)C=C1 | C28H18ClN5O2
